US05096915
4-Chlorobenzoyl chloride (0.83 g) was added to a solution of 2-cyano-4-hydroxymethyl-1-(dimethylsulphamoyl)-imidazole (1.5 g) in dichloromethane (50 ml), containing triethylamine (1.0 ml) at 0°. The mixture was stirred for 45 minutes whilst the temperature was allowed to rise to room temperature. The mixture was added to water and the organic phase was separated, washed, dried and concentrated under reduced pressure. The residue was recrystallised from a mixture of diisopropyl ether and ethyl acetate to give 2-cyano-4-(4-chlorobenzoyloxy-methyl)-1-(dimethylsulphamoyl)imidazole, m.p. 94≥-96°. (Compound 1)

reactant | 4-Chlorobenzoyl chloride | 0.83 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 2-cyano-4-hydroxymethyl-1-(dimethylsulphamoyl)-imidazole | 1.5 g | C(#N)C=1N(C=C(N1)CO)S(N(C)C)(=O)=O | C7H10N4O3S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-cyano-4-(4-chlorobenzoyloxy-methyl)-1-(dimethylsulphamoyl)imidazole | C(#N)C=1N(C=C(N1)COC(C1=CC=C(C=C1)Cl)=O)S(N(C)C)(=O)=O | C14H13ClN4O4S
